US05446050
1. 2-methylene-3-quinuclidinol mesylate
Under a nitrogen atmosphere, in a round-bottom flask were placed 8 g (58 mmol) of the alcohol of Preparation A and 60 mL of tetrahydrofuran. To thesystem (cooled in an ice/acetone bath) was added 17.9 mL (128 mmol) of triethylamine followed by 5.13 mL (66 mmol) of methanesulfonyl Chloride over a period of 15 minutes. The mixture was gradually warmed to room temperature and stirred overnight. The reaction mixture was partitioned between 2N aqueous sodium hydroxide and chloroform, the layers were separated and the aqueous phase was extracted with chloroform. The combined chloroform fractions were dried (Na2SO4) and concentrated (rotary evaporator). The crude material was purified by flashcolumn chromatography (300 g of silica gel) using 1:9 methanol/chloroform as the eluant to obtain 5.3 g of the desired product. 1HNMR (CDCl3) delta 1.48 (m, 2H), 1.68 (m, 1H), 1.84 (m, 1H), 2.28 (m, 1H),2.76 (m, 1 H), 2.94 (m, 3H), 3.04 (s, 3H), 5.08 (d, 1H, J=5), 5.14 (s, 1H),5.24 (d, 1H, J=5).

reactant | triethylamine | 128 mmol, 17.9 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl Chloride | 66 mmol, 5.13 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-methylene-3-quinuclidinol mesylate | 5.3 g | S(C)(=O)(=O)OC1C(N2CCC1CC2)=C | C9H15NO3S
